US05445762
1-((1-Adamantyl)acetyl)-1-aza-4,7,10,13-tetraoxacyclopentadecane
Analogously to Example 14 from 1-aza-4,7,10,13-tetraoxacyclopentadecane and (1-adamantyl)acetyl chloride.

reactant | 1-aza-4,7,10,13-tetraoxacyclopentadecane | N1CCOCCOCCOCCOCC1 | C10H21NO4
reactant | (1-adamantyl)acetyl chloride | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
product | 1-((1-Adamantyl)acetyl)-1-aza-4,7,10,13-tetraoxacyclopentadecane | C12(CC3CC(CC(C1)C3)C2)CC(=O)N2CCOCCOCCOCCOCC2 | C22H37NO5
